*****************************************************************
* NXP PSMN1R6-40YLC
*
* Polarity N-Channel
* Ratings 40V/1.550000E-003OHMS/100A
*
* Date Created Fri Aug 10 00:13:52 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN1R6-40YLC DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 4.4e-10
RLS2 SOURCE 8 1.10584061406361
RLS1 8 7 0.00017

RDS 7 4 40000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.000784692490809507 TC=0.00699130794155116,3.51112438595748E-07
RBD 9 4 0.0006794412373862 TC=0.00699130794155116,3.51112438595748E-07
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.71640121695236e-09
RG 1 2 1.18491376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -1	4608.4
+ -0.5	3523.42
+ -0.2	2876.7
+ -0.1	2859.82
+ 0	2333.50648
+ 0.1	1795.47074
+ 0.2	1793.54481
+ 0.5	1443.86852
+ 1	1152.74978
+ 2	828.14437
+ 3	683.6303
+ 4	591.72726
+ 5	522.96052
+ 6	473.45837
+ 8	418.25915
+ 10	396.47993
+ 12	390.30311
+ 15	390.00441
+ 16	389.97456
+ 20	387.09422
+ 25	379.97696
+ 30	371.90944



.MODEL MINT NMOS(Vto=1.97 Kp=7e+002 Nfs=380000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=44 Ibv=2.500000E-004 Rs=1E-6 Is=3.79111177552914e-12
+ N=1 M=0.790000000000001 VJ=0.99 Fc=0.5 Cjo=7.77982741e-09 Tt=6.2e-08)

.ENDS

